US07393868B2
{4′-[3-(Propane-2-sulfonylamino)-thiophen-2-yl]-biphenyl-4-yloxy}-acetic acid
Heat a solution of (4-Iodo-phenoxy)-acetic acid or (4-bromo-phenoxy)-acetic acid (0.25 mmol), propane-2-sulfonic acid {2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-thiophen-3-yl}-amide (122 mg, 0.30 mmol), PdCl2(dppf)(41 mg, 0.05 mmol) and barium hydroxide (158 mg, 0.50 mmol) in DMF-H2O (v/v 4:1, 2.5 mL) to 80° C. under nitrogen atmosphere for 20 h. Pour into H2O (50 mL) and dichloromethane (50 mL), then extract with H2O (4×50 mL) and dry the combined organic phases (MgSO4). Concentrate to furnish a crude mixture as a yellowish solid. Purification by flash chromatography (Silica gel-Hexane/EtOAc) affords the title compound as a pale yellow solid (65-80% yield). MS (ES−):430.1 (M−1).

reactant | (4-Iodo-phenoxy)-acetic acid | IC1=CC=C(OCC(=O)O)C=C1 | C8H7IO3
reactant | (4-bromo-phenoxy)-acetic acid | 0.25 mmol | BrC1=CC=C(OCC(=O)O)C=C1 | C8H7BrO3
reactant | propane-2-sulfonic acid {2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-thiophen-3-yl}-amide | 0.30 mmol, 122 mg | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C=1SC=CC1NS(=O)(=O)C(C)C)C | C19H26BNO4S2
reactant | barium hydroxide | 0.50 mmol, 158 mg | [OH-].[Ba+2].[OH-]
solvent | DMF H2O | 2.5 mL | CN(C)C=O.O
catalyst | PdCl2(dppf) | 0.05 mmol, 41 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | H2O | 50 mL | O | H2O
product | {4′-[3-(Propane-2-sulfonylamino)-thiophen-2-yl]-biphenyl-4-yloxy}-acetic acid | 65-80% yield | CC(C)S(=O)(=O)NC1=C(SC=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)OCC(=O)O | C21H21NO5S2
